US07994202B2
3-Bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
To a solution of 3-bromo-1H-indazole (500 mg) synthesized according to a method of the literature (V> Auwers, et al., J. Prakt. Chem., 1924, 314) in toluene (25 mL, manufactured by Wako Pure Chemical Industries, Ltd.), 3,4-dihydro-2H-pyrane (640 mg, manufactured by Tokyo Chemical Industry Co., Ltd.) and p-toluenesulfonic acid monohydrate (10 mg, manufactured by Wako Pure Chemical Industries, Ltd.) were added, and the mixture was heated for one hour at 80° C. The reaction solution was cooled to room temperature, and then a saturated aqueous solution of sodium hydrogen carbonate (10 mL) was added thereto. The mixture was extracted with ethyl acetate (3×20 mL), washed with brine (40 mL), and dried (MgSO4), and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1), to give 570 mg of the title compound. LC-MS: HPLC retention time 4.93 minutes, m/z 281 (M+H), condition B-1.

reactant | 3-bromo-1H-indazole | 500 mg | BrC1=NNC2=CC=CC=C12 | C7H5BrN2
reactant | 3,4-dihydro-2H-pyrane | 640 mg | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-Bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 570 mg | BrC1=NN(C2=CC=CC=C12)C1OCCCC1 | C12H13BrN2O
